US05688795
A mixture of 3-[4-(2-fluorophenyl)piperazin-1-yl]propylphthalimide (1.87 g, 5.09 mmol) and hydrazine hydrate (305 mg, 6.11 mol) in 10L of ethanol was heated at 90° C. for 2 hours. The mixture was allowed to cool to room temperature and then diluted with 4 mL of ethyl acetate and 60 mL of diethyl ether. The mixture was filtered and the solvents were removed by evaporation to give 3-[4-(2-fluorophenyl)piperazin-1-yl]propylamine (574 g, 2.42 mmol).

reactant | 3-[4-(2-fluorophenyl)piperazin-1-yl]propylphthalimide | 5.09 mmol, 1.87 g | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=C2C(C(=O)NC2=O)=CC=C1 | C21H22FN3O2
reactant | hydrazine hydrate | 6.11 mol, 305 mg | O.NN
reactant | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | 3-[4-(2-fluorophenyl)piperazin-1-yl]propylamine | 2.42 mmol, 574 g | FC1=C(C=CC=C1)N1CCN(CC1)CCCN | C13H20FN3
